US03950427
4-(4-Cyclohexyl-phenyl)-2-pentanone by method A
A solution of 24.54 gm (0.1 mol) of 3-(4-cyclohexylphenyl)-butyramide in 750 ml of dry methylene chloride was added dropwise within one hour to a methyl magnesium iodide solution, prepared from 12.2 gm (0.5 mol) of magnesium and 71 gm (0.5 mol) of methyl iodide in a total of 400 ml of anhydrous ether, and, to complete the reaction, the resulting mixture was refluxed for 6 hours. The cooled mixture was then stirred into a mixture of 2 kg of ice and 100 ml of concentrated sulfuric acid. The organic phase was separated and washed twice with water, then with a saturated aqueous sodium bicarbonate solution and finally once more with water, then dried over anhydrous magnesium sulfate and concentrated by evaporation in vacuo. The residue was chroomatographically purified on 800 gm of silicagel, using benzene as the eluant, and the evaporated eluates were finally distilled in vacuo. 19.8 gm (81% of theory) of colorless oil, b.p. 104°-106°C at 0.05 mm Hg were obtained.

reactant | 3-(4-cyclohexylphenyl)-butyramide | 0.1 mol, 24.54 gm | C1(CCCCC1)C1=CC=C(C=C1)C(CC(=O)N)C | C16H23NO
reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | 0.5 mol, 12.2 gm | [Mg] | Mg
reactant | methyl iodide | 0.5 mol, 71 gm | CI | CH3I
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 400 ml | CCOCC | C4H10O
product | 4-(4-Cyclohexyl-phenyl)-2-pentanone | C1(CCCCC1)C1=CC=C(C=C1)C(CC(C)=O)C | C17H24O
